US08710090B2
(1) Synthesis of 1-(4-chlorobenzyl)-3,3-bis-hydroxymethyl-2-oxo-cyclopentancarboxylic acid methyl ester (Compound (XXVI), R2═CH3, Ym=4-Cl)
1-(4-Chlorobenzyl)-2-oxo-cyclopentancarboxylic acid methyl ester (Compound No. (XXV)-1, (Compound (XXV), R2═CH3, Ym=4-Cl, A=N) (266.7 mg, 1.00 mmol) was combined with potassium carbonate (69 mg, 0.50 mmol), 37% aqueous solution of formaldehyde (0.242 ml, 3.00 mmol) and THF (0.72 ml) and vigorous stirring was conducted at room temperature for 5 hours. After completion of the reaction, water was added and extraction with ethyl acetate was conducted. The organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate and the solvent was distilled away. The residue was subjected to silica gel column chromatography (eluent; ethyl acetate:hexane=2:1) for purification to obtain the desired substance.

reactant | 1-(4-Chlorobenzyl)-2-oxo-cyclopentancarboxylic acid methyl ester | COC(=O)C1(C(CCC1)=O)CC1=CC=C(C=C1)Cl | C14H15ClO3
reactant | potassium carbonate | 0.50 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | formaldehyde | 3.00 mmol, 0.242 ml | C=O | CH2O
reactant | THF | 0.72 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-chlorobenzyl)-3,3-bis-hydroxymethyl-2-oxo-cyclopentancarboxylic acid methyl ester | COC(=O)C1(C(C(CC1)(CO)CO)=O)CC1=CC=C(C=C1)Cl | C16H19ClO5
